US06239142B1
N-(4-Fluorobenzyl)-7-methyl-2-(4-morpholinylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide.
A mixture of ethyl 7-methyl-2-(4-morpholinylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxylate (0.300 g) from Preparation No. 4 and 4-fluorobenzylamine (1.02 mL) is stirred at 175° C. for 3 h. The reaction mixture is allowed to cool for several minutes and is then diluted with toluene (15 mL). The resulting off-white precipitate is filtered off and recrystallized from acetonitrile then ethanol to yield 0.184 g (50%) of the title compound as a white, crystalline solid.

reactant | ethyl 7-methyl-2-(4-morpholinylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxylate | 0.300 g | CN1C2=C(C(C(=C1)C(=O)OCC)=O)C=C(S2)CN2CCOCC2 | C16H20N2O4S
reactant | 4-fluorobenzylamine | 1.02 mL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Fluorobenzyl)-7-methyl-2-(4-morpholinylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.184 g, 50% | FC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CN3CCOCC3)=O)C=C1 | C21H22FN3O3S
